US07989454B2
N-Benzyl-3-hydroxy-5-iodo-benzamide
A solution of N-benzyl-3-iodo-5-methoxy-benzamide (4.7 g) in anhydrous dichloromethane (100 mL) was cooled to −78° C. in dry ice/acetone bath under flow of argon and a BBr3 solution (38.4 mL of 1 M solution in dichloromethane) was added dropwise. After the addition was completed, the reaction mixture was stirred at room temperature overnight. The reaction mixture was cooled in an ice bath and then quenched by a dropwise addition of methanol. Then it was diluted with ethyl acetate, washed with water and brine, dried over anhydrous sodium sulfate and concentrated to remove the solvents. The title compound was obtained by trituration with diethyl ether and hexanes (4.1 g, 90% yield).

reactant | N-benzyl-3-iodo-5-methoxy-benzamide | 4.7 g | C(C1=CC=CC=C1)NC(C1=CC(=CC(=C1)OC)I)=O | C15H14INO2
reactant | BBr3 | 1 M, 38.4 mL | B(Br)(Br)Br | BBr3
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dry ice acetone | C(=O)=O.CC(=O)C
product | N-Benzyl-3-hydroxy-5-iodo-benzamide | C(C1=CC=CC=C1)NC(C1=CC(=CC(=C1)I)O)=O | C14H12INO2
